US08802712B2
2-Bromo-4-(7,8-dimethoxy-3H-pyrazolo[3,4-c]quinolin-1-yl)benzonitrile (540 mg, 1.32 mmol) is dissolved in N,N-dimethylformamide (4.0 ml) under an argon protective-gas atmosphere. Tripotassium phosphate (578 mg, 2.64 mmol), KOH (67 mg, 1.19 mmol), 1,2-dimethoxyethane (9.0 ml) and water (50 μl), vinylboronic acid pinacol ester (942 μl, 5.28 mmol) and trans-bis(tricyclohexylphosphine)palladium(II)dichloride (98 mg, 132 μmol) are subsequently added. The suspension obtained is heated at 150° C. (microwave) for 30 min. For work-up, the mixture is extracted with ethyl acetate and semi-saturated sodium chloride solution. The organic phase is dried over Na2SO4, filtered with suction and evaporated to dryness in vacuo. The residue is purified over flash silica gel (solvent gradient cyclohexane/0-80% by vol. of ethyl acetate), giving 4-(7,8-dimethoxy-3H-pyrazolo[3,4-c]-quinolin-1-yl)-2-vinylbenzonitrile (247 mg, 693 μmol) as a solid. MS: 357.2 (M+H+), TLC (HPTLC): Rf=0.47 (ethyl acetate/ethanol 8:1, parts by volume).

reactant | 2-Bromo-4-(7,8-dimethoxy-3H-pyrazolo[3,4-c]quinolin-1-yl)benzonitrile | 1.32 mmol, 540 mg | BrC1=C(C#N)C=CC(=C1)C1=NNC=2C=NC=3C=C(C(=CC3C21)OC)OC | C19H13BrN4O2
reactant | Tripotassium phosphate | 2.64 mmol, 578 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | KOH | 1.19 mmol, 67 mg | [OH-].[K+]
reactant | vinylboronic acid pinacol ester | 5.28 mmol, 942 μl | C(=C)B1OC(C)(C)C(C)(C)O1 | C8H15BO2
solvent | N,N-dimethylformamide | 4.0 ml | CN(C=O)C | C3H7NO
solvent | water | 50 μl | O | H2O
solvent | 1,2-dimethoxyethane | 9.0 ml | COCCOC | C4H10O2
product | 4-(7,8-dimethoxy-3H-pyrazolo[3,4-c]-quinolin-1-yl)-2-vinylbenzonitrile | 693 μmol, 247 mg | COC=1C(=CC=2C3=C(C=NC2C1)NN=C3C3=CC(=C(C#N)C=C3)C=C)OC | C21H16N4O2
